US07276518B2
2-(4-Dimethylamino-4-thiophen-2-yl-cyclohexylamino)-3-(1H-indol-3-yl)-propionic acid methyl ester dihydrochloride, nonpolar diastereomer
The hydrochloride of L-tryptophan methyl ester (1.01 g) was stirred vigorously for 15 minutes with 1,2-dichloroethane (20 ml) and saturated NaHCO3 solution (20 ml) and the aqueous phase was immediately extracted with 1,2-dichloroethane (2×20 ml). After drying with Na2SO4, the organic phase was concentrated to 40 ml, and 4-dimethylamino-4-phenylcyclohexanone (893 mg, 4 mmol.) was added thereto under argon. Glacial acetic acid (0.228 ml, 4 mmol.) and Na2SO4 (2 g) were added to the clear solution. After a reaction time of 15 minutes, NaBH(OAc)3 (1.2 g) was added to the reaction mixture, and stirring was carried out for 4 days at room temperature. For working up, saturated NaHCO3 solution (40 ml) was added and stirring was carried out for 15 minutes. The aqueous phase was extracted with dichloromethane (2×20 ml). The combined organic phases were dried and then concentrated, yielding a light-brown oil. Purification by column chromatography was carried out with ethyl acetate and methanol. The nonpolar diastereomer (918 mg; m.p. 108-112° C.) was dissolved in 2-butanone (15 ml) and converted with chlorotrimethylsilane (0.4 ml) into the corresponding dihydrochloride (white solid; 326 mg; m.p. 197-202° C.).

reactant | hydrochloride | Cl | ClH
reactant | L-tryptophan methyl ester | 1.01 g | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | 4-dimethylamino-4-phenylcyclohexanone | 4 mmol, 893 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 4 mmol, 0.228 ml | C(C)(=O)O | C2H4O2
reactant | Na2SO4 | 2 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 1.2 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-(4-Dimethylamino-4-thiophen-2-yl-cyclohexylamino)-3-(1H-indol-3-yl)-propionic acid methyl ester dihydrochloride | Cl.Cl.COC(C(CC1=CNC2=CC=CC=C12)NC1CCC(CC1)(C=1SC=CC1)N(C)C)=O | InChI=1S/C24H31N3O2S.2ClH/c1-27(2)24(22-9-6-14-30-22)12-10-18(11-13-24)26-21(23(28)29-3)15-17-16-25-20-8-5-4-7-19(17)20;;/h4-9,14,16,18,21,25-26H,10-13,15H2,1-3H3;2*1H
